Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
___ fall 8ft w/ SAH, SDH, skull fx, C3 tx foramen, R1-3 L4/5 rib 
manub,T3-5 vert body fx, R intramusc hematoma, L femur fx s/p R 
hemicrani, L neurovent, ORIF w/PNA, PE, L thigh hematoma
 
Major Surgical or Invasive Procedure:
___ - T2-T7 Fusion  
___ - Cranioplasty
___ - left EVD placed, removed ___ - PEG, Trach and IVC filter  
___ - L femur retrograde IMN (KRod)  
___ - R hemicraniectomy, L neurovent (neurovent removed 
___

 
History of Present Illness:
___ year old male with a history of CAD and hypertension who was
admitted on ___ with severe polytrauma after falling from
scaffolding 8ft w/ SAH, SDH, skull fx, C3 tx foramen, R1-3 L4/5 
rib manub,T3-5 vert body fx, R intramusc hematoma, L femur fx 
s/p R hemicrani, L neurovent, ORIF w/PNA, PE, L thigh hematoma
 
Past Medical History:
CAD and hypertension
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
--------------
on admission:
--------------
Physical Exam:
O:   BP:  103/69   HR:83   RR:18  O2 Sat:100%
GCS at the scene: 14
GCS upon Neurosurgery Evaluation: 7T

Airway: [x]Intubated 
Eye Opening: 
 [x]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [x]5 Localizes to painful stimuli
 [ ]6 Obeys commands

Exam:
Gen: WD/WN, comfortable, NAD.
Extrem: warm and well perfused

Neuro:
Mental Status: Intubated.  No eye opening.  Nonverbal.
Language: Intubated

If Intubated:
  [x]Cough  [x]Gag  [x]Over breathing the vent

Cranial Nerves:
I: Not tested
II: Pupils 3-2mm left, 2-1.5mm right, sluggish
III-XII: unable to fully test due to intubation/mental status

Motor: Moves BUE spontaneous and purposeful.  Withdraws RLE
briskly to noxious.  Withdraws LLE weakly to noxious (left femur
fx)

--------------
at discharge:
--------------
Alert 
Tracheostomy 
Nods head to questions appropriately 
Follows simple commands 
 RUE/RLE antigravity, spontaneous & commands. LUE spontanously 
moves laterally in plane of bed , LLE wiggles toes to command.
Craniotomy incision- c/d/I 
Thoracic incision- c/d/I closed with staples
 
Pertinent Results:
please see OMR for pertinent results 
 
Brief Hospital Course:
Mr. ___ was admitted to the Trauma Service on ___ 
following a traumatic fall. For more details, see admission H&P. 
He was taken for a craniotomy, evacuation of SDH, and neurovent 
placement. On ___ he was taken for retrograde nailing of his 
femur fracture. A bronch was performed on ___ due to 
desaturations on vent. The neurovent was removed on ___. Keppra 
was stopped on ___. A CTA chest was performed, which showed 
small acute PE in the RUL. A hep gtt was started. The heparin 
gtt was stopped due to a thigh hematoma. Paralyzed from ___ 
due to difficulty with ventilator. On ___ an MRI head was 
performed, which showed no significant change in intracranial 
hemorrhages. A trach and PEG were placed. On ___ a JTO brace 
was placed. A heparin gtt was restarted for left IJ/SC/axillary 
thrombosis. On ___ a NCHCT was stable and aspirin was stopped. 
On ___ the patient was found to not be tracking on left, but a 
NCHCT was stable. On ___ he was switched from heparin to 
lovenox. On ___ he was found to have gaze deviation, and a 
NCHCT showed worsening hydro. Protamine was given for lovenox 
reversal and a left EVD was placed. CT confirmed good placement. 
The heparin gtt was restarted 48 hours later. On ___ a repeat CT 
showed continued dilated right ventricle. On ___ a NCHCT showed 
stable ventricles. On ___ a NCHCT again showed stable 
ventricles, and the heparin gtt was stopped for cranioplasty the 
following day. On ___ ancef was started for continued EVD. a 
NCHCT showed increased hydro and uncal herniation. EVD flushed 
and became functional. From ___ Mr. ___ underwent 
serial clamp trials EVD and NCHCTs. He was then transferred to 
the ___ on the Neurosurgery Service on ___. He was stable for 
transfer to the floor on ___. He was able to tolerate PMV valve 
with SLP on ___ and will continue trials with 1:1 supervision.

Patient was transferred to the care of the Neurosurgical service 
on ___
#Hydrocephalus
The patient was tolerating EVD clamp trials with no change in 
his neurological exam. After 72 hours of clamping, the EVD was 
removed on ___. A NCHCT completed afterwards showed a slight 
increase in the size of ventricles and no evidence of 
hemorrhage. His neuro exam remained stable. He will follow up 
outpatient for continued monitoring. 

#PE/DVT
The patient was found to have a pulmonary embolism and right 
upper extremity DVT. Heparin gtt was restarted ___ and stopped 
in preparation for EVD removed. It was again restarted on ___. 
He will be bridged to Coumadin, INR goal ___. At time of 
discharge PTT was not therapeutic so Coumadin had not yet been 
started. Specific instructions for heparin bridge were given to 
facility. 

#Thoracic Fracture
The patient underwent T2-7 posterior fusion for T4 burst 
fracture on ___. The procedure was uncomplicated. For further 
procedure details, please see separately dictated operative 
report by Dr. ___. He does not require any bracing. 

#Leukocytosis 
Patient completed treatment for Stenotrophomonas Pneumonia. 
Infectious disease was closely involved in this patient care. At 
time of discharge patient had mild leukocytosis, no fever and no 
active infection. Given he has known DVT/PE this is likely the 
source of mild leukocytosis. Patient was afebrile at discharge.  


#Disposition
The patient will require long term acute care. He was screened 
and accepted at an LTAC. 
 
Medications on Admission:
Unable to obtain
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Albuterol Inhaler 6 PUFF IH Q6H Wheezing  
3.  amLODIPine 5 mg PO DAILY  
4.  Artificial Tear Ointment 1 Appl BOTH EYES PRN blistering, 
redness  
5.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
6.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
7.  Docusate Sodium 100 mg PO BID  
8.  Finasteride 5 mg PO DAILY  
9.  Heparin IV Sliding Scale
No Initial Bolus
Start infusion with rate of: 900 units/hr
Therapeutic/Target PTT Range: 60 - 79.9  seconds
PTT goal ___
Bridge to Coumadin when PTT therapeutic   
10.  Ipratropium Bromide MDI 6 PUFF IH Q6H Wheezing  
11.  Milk of Magnesia 30 mL PO Q12H:PRN constipation  
12.  OxycoDONE Liquid ___ mg PO Q4H:PRN Pain - Moderate  
13.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
14.  QUEtiapine Fumarate 25 mg PO QHS  
15.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Traumatic brain injury - Right subdural hematoma, SAH, skull fx
Spine fractures: C3 trans foramen fx, T3-5 vertebral body fx, 
R1-3 L4/5 rib fracture, R intramusc hematoma
ALL injure
Mandible fracture
Zygomatic fx
left femur Fracture
Multiple rib fxs
Pulmonary contusions 
Hydrocephalus
ventilator dependet respiratory failure 
RUE DVT
Pulmonary embolus 
Pneumonia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions
Brain Hemorrhage with Surgery

Brain Surgery

· You underwent a surgery called a craniectomy. A portion of 
your skull was removed to allow your brain to swell. You then 
underwent cranioplasty, which replaced the bone. You no longer 
need to wear a helmet when out of bed. 

It is best to keep your incision open to air but it is ok to 
cover it when outside. 

· Call your ___ if there are any signs of infection like 
redness, fever, or drainage. 

Spine Surgery - Spinal Fusion

· Your incision is closed with staples . You will need staple 
removal. 

· Do not apply any lotions or creams to the site. 

· Please keep your incision dry until removal of your staple

· Please avoid swimming for two weeks after staple removal.

· Call your ___ if there are any signs of infection like 
redness, fever, or drainage. 

Activity

· You do not need any bracing or helmets at this time. 

· We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

· You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

· No driving while taking any narcotic or sedating medication. 

· If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

· No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

· Do  NOT smoke. Smoking can affect your healing and fusion.

Medications

· Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon. This can interfere with your spine fusion.

· You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

 
What You ___ Experience:

· You may have difficulty paying attention, concentrating, and 
remembering new information.

· Emotional and/or behavioral difficulties are common. 

· Feeling more tired, restlessness, irritability, and mood 
swings are also common.

· You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 

· You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 

· Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

· Headache is one of the most common symptoms after a brain 
bleed. 

· Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

· Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

· There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


 

When to Call Your Doctor at ___ for:
· Severe pain, swelling, redness or drainage from the incision 
site. 
· Fever greater than 101.5 degrees Fahrenheit
· Nausea and/or vomiting
· Extreme sleepiness and not being able to stay awake
· Severe headaches not relieved by pain relievers
· Seizures
· Any new problems with your vision or ability to speak
· Weakness or changes in sensation in your face, arms, or leg

 
Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
· Sudden numbness or weakness in the face, arm, or leg
· Sudden confusion or trouble speaking or understanding
· Sudden trouble walking, dizziness, or loss of balance or 
coordination
· Sudden severe headaches with no known reason

 
You also had a fracture in your L femur for which you underwent 
surgery. You are allowed to bare weight on your L leg as 
tolerated. 
 
Followup Instructions:
___